US06956042B2
1-Methyl-7-(3-pyridyl)-1,7-diazaspiro[4.4]nonane
7-(3-Pyridyl)-1,7-diazaspiro[4.4]nonane (30 mg, 0.15 mmol) was dissolved in 98% formic acid (0.5 mL) and formaldehyde (1 mL, 28% aqueous solution). The reaction mixture was heated to reflux for 8 h. The reaction mixture was cooled to room temperature, basified with saturated aqueous sodium bicarbonate to pH 9-10 and extracted with chloroform (4×3 mL). The combined chloroform extracts were dried (K2CO3), filtered and concentrated on a rotary evaporator to afford 30 mg of the desired compound (93.6%) as a light brown liquid.

reactant | 7-(3-Pyridyl)-1,7-diazaspiro[4.4]nonane | 0.15 mmol, 30 mg | N1=CC(=CC=C1)N1CC2(CCCN2)CC1 | C12H17N3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | formic acid | 0.5 mL | C(=O)O | CH2O2
solvent | formaldehyde | 1 mL | C=O | CH2O
product | 1-Methyl-7-(3-pyridyl)-1,7-diazaspiro[4.4]nonane | 30 mg, 93.6% | CN1CCCC12CN(CC2)C=2C=NC=CC2 | C13H19N3
